US07888354B2
(2) Preparation of 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine
A suspension of (2R)-1-[3-(4-iodophenoxy)propyl]-2-methylpyrrolidine obtained in Example 1-(2) (0.30 g), 4-(1H-pyrazol-4-ylcarbonyl)morpholine obtained in Example 6-(1) (0.19 g), (rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (0.049 g), copper iodide (0.017 g) and cesium carbonate (0.57 g) in N,N-dimethylformamide (0.5 mL) was stirred at 120° C. for 1.5 hours. The reaction mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=2:1 to 1:1). The resulting crystal was washed with isopropyl ether to give the titled compound (0.20 g) as a white solid.

reactant | (2R)-1-[3-(4-iodophenoxy)propyl]-2-methylpyrrolidine | IC1=CC=C(OCCCN2[C@@H](CCC2)C)C=C1 | C14H20INO
reactant | 4-(1H-pyrazol-4-ylcarbonyl)morpholine | N1N=CC(=C1)C(=O)N1CCOCC1 | C8H11N3O2
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.049 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 0.57 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | copper iodide | 0.017 g | [Cu](I)I
product | 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine | 0.20 g | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)C(=O)N1CCOCC1 | C22H30N4O3
